US06060469
2-Ethoxy-5-nitrobromobenzene
Iodoethane (3.7 ml) was added to a mixture of 2-bromo-4-nitrophenol (4 g) and potassium carbonate (5.1 g) in N,N dimethylformamide (20 ml) and the mixture was stirred at room temperature for 3 hours. The mixture was partitioned between water (300 ml) and ethyl acetate. After extraction with EtOAc. the combined organic fractions were washed with brine, dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was purified by flash column chromatography on silica gel, eluting with hexane/EtOAc (95:5 increasing to 90:10) to give the title compound as an oil (3.4 g). 1H NMR (250 MHz, CDCl3) δ 1.54 (3H, t, J=9.1 Hz), 4.21 (2H, q, J=7 Hz), 6.93 (1H, d, J=9.1 Hz), 8.19 (1H, dd, J=9.1, 2.7 Hz), and 8.47 (1H, d, J=2.7 Hz).

reactant | Iodoethane | 3.7 ml | ICC | C2H5I
reactant | 2-bromo-4-nitrophenol | 4 g | BrC1=C(C=CC(=C1)[N+](=O)[O-])O | C6H4BrNO3
reactant | potassium carbonate | 5.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-Ethoxy-5-nitrobromobenzene | 3.4 g | C(C)OC1=C(C=C(C=C1)[N+](=O)[O-])Br | C8H8BrNO3
